Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weight loss, elevated liver enzymes
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old man who is an active smoker, who
presented to the ED after an outpatient work-up for weight loss
revealed direct hyperbilirubinemia and CT concerning for
cholecystitis. He had been seen ___ weeks ago in his primary 
care
clinic at ___ for an annual physical and mentioned about 11
lbs weight loss over one year without attempts to lose weight. 
He
underwent lab evaluation, which revealed direct
hyperbilirubinemia (1.2). His viral hepatitis work-up (hep B sAg
and cAb IgM, Hep A IgM/Hep C) was negative. He underwent a CT
scan with findings as follows:

"Gallbladder is significantly enlarged and there is minimal
pericholecystic fluid and/or mild wall thickening. These 
findings
are suggestive of acute cholecystitis, no cause is identified,
gallbladder sludge is noted. Common bile duct is normal caliber.
There are no suspicious liver lesions. GI/surgical consultation
are suggested."

He was referred to the ED, where he also noted recent history of
intermittent vomiting if he overeats, particularly in the past
___ weeks. He additionally noted pale stools in the past ___
days. His vitals were notable for initial tachycardia to 110s,
which subsequently improved to ___. Normotensive with normal
oxygenation. Labs notable for mild hyponatremia (134), ALT 80,
AST 168, Alk Phos 327, Tbili 3.6, albumin 3.0. 

RUQ with:
1. Mildly distended gallbladder with biliary sludge.  No
additional sonographic evidence for acute cholecystitis 
including
no sonographic ___ sign.  If clinical concern for acute
cholecystitis persists, consider HIDA scan for further
evaluation. 
2.  No biliary dilation. 
3.  Echogenic liver consistent with steatosis. Other forms of
liver disease and more advanced liver disease including
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot
be excluded on this study. 

He was evaluated by ACS in the Ed who felt based on exam and
clinical data that cholecystitis was unlikely. 

ROS: As per HPI, and 10 point ROS completed and otherwise
negative.

 
Past Medical History:
Smoking
 
Social History:
___
Family History:
+asthma
 
Physical Exam:
Admission Exam:
Vital signs reviewed in flowsheet. normal
GENERAL: Alert and in no apparent distress
EYES: pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp no edema
NEURO: grossly intact
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADmission Labs:

___ 08:30PM BLOOD WBC-8.2 RBC-3.64* Hgb-12.8* Hct-36.1* 
MCV-99* MCH-35.2* MCHC-35.5 RDW-13.9 RDWSD-50.7* Plt ___
___ 08:30PM BLOOD Glucose-105* UreaN-12 Creat-0.9 Na-134* 
K-4.4 Cl-94* HCO3-28 AnGap-12
___ 08:30PM BLOOD Albumin-3.0* Calcium-8.4 Phos-3.3 Mg-1.8
___ 08:52PM BLOOD Lactate-1.7

Imaging:
MRCP- 1.  No biliary obstruction.
2.  Mildly distended gallbladder with biliary sludge and mild 
pericholecystic
free fluid could be seen with biliary dyskinesia.  No imaging 
evidence to
suggest acute cholecystitis.
3.  Geographic hepatic steatosis predominantly involving segment 
___.  (Fat
fraction 5.5%).
4.  Moderate multilevel degenerative changes throughout the 
thoracolumbar
spine.
5.  Kyphosis centered at lower thoracic vertebral body with 
lower thoracic
vertebral body moderate anterior compression deformities without 
retropulsion,
likely chronic.

RUQ US- 1. Mildly distended gallbladder with biliary sludge.  No 
additional
sonographic evidence for acute cholecystitis including no 
sonographic ___
sign.  If clinical concern for acute cholecystitis persists, 
consider HIDA
scan for further evaluation.
 2.  No biliary dilation.
 3.  Echogenic liver consistent with steatosis. Other forms of 
liver disease
and more advanced liver disease including steatohepatitis or 
significant
hepatic fibrosis/cirrhosis cannot be excluded on this study.
 
Brief Hospital Course:
___ year old man who is an active smoker with ~10 lbs weight loss
over the past year and intermittent vomiting with overeating who
was found to have hyperbilirubinemia (predominately direct), 
with
initial CT imaging concerning for cholecystitis but subsequent
ultrasonographic evaluation less concerning for cholecystitis.
Despite the lack of CBD dilation, the direct hyperbilirubinemia
is concerning for CBD obstruction (which could also cause
gallbladder distension), so MRCP would be a reasonable next step
in his evaluation. Could potentially all be due to biliary
sludge. 

ACUTE/ACTIVE PROBLEMS:

#Direct hyperbilirubinemia (per Atrius labs) #Intermittent 
vomiting with overeating
#Gallbladder distension with biliary sludge.  Pt was seen by 
surgery who felt this was NOT acute cholecystitis given lack of 
pain or fever or other findings of same.  US imaging did not 
suggest an etiology or acute cholecystistis.  MRCP with no clear 
cause of LFT elevation, but did show regional fatty 
infiltration/steatosis.  No bile duct obstruction, no e/o 
cholecystitis, no masses.  Pt was seen by ERCP team (GI), who 
considered EUS, but then felt this was of low utility on further 
review of the MRCP, and that the etiology was likely 
intra-hepatic.  Sent panels for viral hepatitis (negative), AIH 
(pending), sprue (pending), and also iron studies.  Iron studies 
suggest iron overload, however, in setting of acutely inflamed 
liver, hard to interpret, and pt has no other suggestion of 
Hemochromatosis: no dm, no hyperpigmentation, no heart failure, 
no arthropathies, no family history.  

I began to suspect etoh hepatitis as most likely etiology, 
although the patient had denied drinking more than 'one to two 
beers' nightly, including on repeated questioning.   Finally I 
asked him for permission to call his wife, which he granted - 
she endorsed to me that he has 'at least ___ shots of whisky 
every night'.  He said this was true when I asked him to 
confirm.  

This all seems to be alcoholic hepatitis most likely.  He has no 
pain, no bleeding, and no evidence of withdrawal. His DF on 
admission was only 3.2.  His last drink was ___, so at d/c he 
is ___ days out and has not manifest withdrawal.  I offered to the 
patient to remain in hospital for ongoing abstinence, 
monitoring, but he refused and insists on d/c home.  I think 
this is not unreasonable as he is asymptomatic, clinically 
stable, and with improving lab studies - lfts improving.  

I discussed with him and wife extensively, the need for complete 
abstinence - wife is throwing out all his etoh, and avoidance of 
acetaminophen, nsaids, any meds as able.  They verbalized 
understanding and agreement.  

I recommended: repeat LFTs and iron studies by the end of the 
week at his primary MDs office, which they agreed with.  This 
d/c summary will be sent to primary MD by our admin staff on 
___, and they have link to our records at any rate.  
- ERCP consulted-->rec trending LFTs and consider EUS for 
further
eval
 
Medications on Admission:
none
 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Multi-Vitamin HP/Minerals]  1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
3.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour 1 patch daily Disp #*30 
Patch Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transaminities

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have alcoholic hepatitis (alcohol-induced liver 
injury/inflammation).  It appears to be a mild (fortunately) 
case.  You need to ABSTAIN from: all alcohol, medications, 
Tylenol or Tylenol-containing products, and NSAIDS (advil).  You 
need to have your liver and iron tests repeated later this week 
at your primary MDs office. 

IF you develop shakes, confusion, sweats, or any blood in your 
bowel movement, you need to return immediately to the hospital 
as we discussed at length, and as I discussed with your wife 
___. 

You should consider treatment for alcoholism, in the form of 
counseling or group therapy.  Please discuss this with your 
primary MD and social work at your primary MD office.
 
Followup Instructions:
___